US06323217B2
Step A: Tert-butyl 1-[3-(Benzofuran-3-yl)-2-hydroxypropyl]-4-piperidylcarbamate
A solution of 2.9 g of 3-(2-oxiranylmethyl)benzofuran, 4 g of tert-butyl 4-piperidyl-carbamate and 35 ml of isopropanol is heated at 80° C. for 5 hours. After evaporation to dryness, chromatography over silica gel enables the expected product to be isolated.

reactant | 3-(2-oxiranylmethyl)benzofuran | 2.9 g | O1C(C1)CC1=COC2=C1C=CC=C2 | C11H10O2
reactant | tert-butyl 4-piperidyl-carbamate | 4 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | isopropanol | 35 ml | C(C)(C)O | C3H8O
product | Tert-butyl 1-[3-(Benzofuran-3-yl)-2-hydroxypropyl]-4-piperidylcarbamate | O1C=C(C2=C1C=CC=C2)CC(CN2CCC(CC2)NC(OC(C)(C)C)=O)O | C21H30N2O4
